US08937184B2
Part A: To a magnetically stirred suspension of 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylic acid (0.4 gram, 1.85 mmol) in CHCl3 (4 ml) was added oxalyl chloride (0.34 gram, 2.685 mmol) and the resulting mixture was reacted at 58° C. for 2 hours and subsequently concentrated in vacuo. The resulting residue was taken up in dichloromethane and diisopropylethylamine (0.28 gram, 2.148 mmol) was subsequently added. A solution of 2,3-dichloroaniline (0.35 gram, 2.146 mmol) in dichloromethane (5 ml) was slowly added to the resulting mixture and the resulting mixture was reacted for 2 hours at room temperature and subsequently concentrated in vacuo. The resulting residue was purified by flash chromatography (dichloromethane) to give N-(2,3-dichlorophenyl)-2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxamide (0.24 gram, 36% yield). Melting point: 127-129° C.

reactant | 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylic acid | 1.85 mmol, 0.4 gram | CC=1N(C(=C(N1)C(=O)O)C)C1=CC=CC=C1 | C12H12N2O2
reactant | oxalyl chloride | 2.685 mmol, 0.34 gram | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diisopropylethylamine | 2.148 mmol, 0.28 gram | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,3-dichloroaniline | 2.146 mmol, 0.35 gram | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
solvent | CHCl3 | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(2,3-dichlorophenyl)-2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxamide | 0.24 gram, 36% yield | ClC1=C(C=CC=C1Cl)NC(=O)C=1N=C(N(C1C)C1=CC=CC=C1)C | C18H15Cl2N3O
